Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
ibuprofen
 
Attending: ___
 
Chief Complaint:
word finding difficulty
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is an ___ F w PMHx of distant TIA who presents
to ___ ED from ___ after acute onset of "slurred speech
and expressive aphasia this morning". Time last known well was
11PM last night.
Ms. ___ reports that she was in her usual state of health
until late last night. She began to have a bifrontal headache
which she notes is very unusual for her. Shortly after the
headache started, she had several episodes of diarrhea. She also
reported some nausea but no emesis. She does not recall any 
focal
weakness or numbness. She did not attempt to speak as she was
home alone. She then went to sleep.
At around 0830 this morning, her daughter called her and noted
that Ms. ___ speech sounded "slow" and was "trailing off".
She denies dysarthria at that time. Ms. ___ seemed to be
having difficulty finding her words and kept saying "gimme a
minute." At 0930, one of her daughters arrived at the house to
check on her. Per her report, Ms. ___ speech difficulties 
had
worsened. They state that she was speaking but "the wrong words
were coming out." She did appear frustrated. Ms. ___ states
that she was "mixed up" but could understand everything that was
being said to her. The family did not notice any facial droop or
lateralized weakness.
They call EMS who again noted good strength bilaterally. Ms.
___ was then taken to ___. Examination there was
significant for "L NLFF and deviation of the tongue to the left
side on protrusion" as well as some disarticulation and
word-finding difficulties. Work-up there was significant for U/A
consistent with UTI and NCHCT with no acute process. Ms. ___
was then transferred to ___ ED for neurology evaluation.
Currently, she states that she believes her deficits are
improving - her daughter agrees, though states that her speech 
is
somewhat slurred and slow. Ms. ___ reports that her headache
has been slowly improving over the course of the day. She denies
any blurry or double vision, tinnitus or hearing loss, focal
weakness or numbness. She endorses diarrhea, but denies any
urinary complaints. She has been in good health recently.

 
Past Medical History:
  - TIA ~ ___ years ago.  sx: veering to one side and slurred 
speech
  - resolved completely before reaching hospital
- basal cell carcinoma, nose
  - planned for ___ procedure in ___

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION 
VS T97.8 HR98 BP141/79 RR16 Sat98RA Gluc127
GEN - elderly woman, pleasant and cooperative, NAD
HEENT - NC/AT, dry mucous membranes
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - WWP

NEUROLOGICAL EXAMINATION
MS - Brightly awake and alert. Attentive to examiner, performs
MOYB briskly and accurately. Able to recount recent and remote
medical history. Speech is fluent with normal prosody and no
paraphasias, though she does have some word-finding 
difficulties.
On stroke card, she is unable to name cactus or hammock. Reading
and repetition are intact. Comprehension for simple commands is
intact, though she has difficulty with grammatically complex two
step commands ("point to the ceiling after you point to the 
bed).
No evidence of apraxia or neglect.
CN - VFF to finger counting. PERRL. EOMI. Facial sensation 
intact
to light touch. Face symmetric at rest and with activation.
Hearing intact to voice. Palate elevates symmetrically. SCMs and
traps are full power. Tongue with full and smooth ROM.
MOTOR - Decreased bulk, appropriate for age. Modestly increased
tone in BLEs. No pronation or drift. No tremor or asterixis. 
Full
power throughout.
SENSORY - Intact to LT and PP. Intact proprioception at 
bilateral
great toes.
REFLEXES - 3s in BUEs. 3s at patellars and ankles. R toe is 
down,
L toe is equivocal.
COORD - No dysmetria with FNF. Romberg negative.
GAIT - Normal initiation, narrow based.

=============================================

DISCHARGE EXAM
VS 98.9F tmax 113-152/48-70, HR 66-72, RR 18, 96% on RA
MS - Alert, ___, llBIDMC
CN - VFF, EOMI, face symmetric
Motor - ___ in delt, bic, tric, quad
No drift
Sensory - symmetric to LT bilaterally 

 
Pertinent Results:
====================
DIAGNOSTICS:
___ - 14:48   
Lactate:1.2
  
135  98  25  134   AGap=15 
4.3  26  0.6  
  
Ca: 10.6 Mg: 1.8 P: 3.5

ALT: 24 AST: 28 AP: 53 
Tbili: 0.4 Alb: 4.3 
Lip: 29     

Stox - negative
 
8.2  12.4  317 
     35.9  
N:88.7 L:8.0 M:2.7 E:0.0 Bas:0.1

___: 10.7  PTT: 29.7  INR: 1.0  
 
NCHCT - ___ (reviewed in LifeImage)
No acute intracranial abnormalities.

CTA: Approximately 50% narrowing of the origin of the left
subclavian artery with mild stenosis at the right carotid artery
bifurcation. Dense calcification is noted at the origin of the
patent left vertebral artery (5:80). Dominant left vertebral
artery noted. Bilateral carotid arteries, vertebral arteries and
their major branches are otherwise patent without flow limiting
stenosis, dissection, or aneurysm greater than 3 mm. Final re- 
depending 3D reformats. 

OSH U/A - consistent w UTI

MRI- no acute ischemia. no structural lesions

 
Brief Hospital Course:
Ms. ___ is an ___ F w PMHx of distant TIA who 
presented to ___ ED from ___ after acute onset of 
word-finding difficulty/expressive aphasia.  The night prior to 
admission endorsed symptoms diarrhea, nausea and vomiting as 
well as a
headache. She was unable to sleep well and when her daughter 
called her in the morning, she sounded groggy and had 
considerable difficulty speaking.  She was transferred to ___ 
for neurological care though deficits were improving on arrival 
and her NIHSS was minimal and she was found with a UTI on labs. 
On exam was awake, alert and oriented. Speech was fluent with 
normal language repetition/comprehension. Normal strength and 
coordination.   CT and MRI were negative for stroke.  CTA showed 
minimal stenosis <50%.  The main concern was for MRI-negative 
TIA versus transient neuro channges in the setting of UTI.

For UTI she had a 3 day course of ceftriaxone.  She was afebrile 
and minimal leukocytosis on admission that resolved. 

Stroke risk factors were checked.  A1c was normal, but 
cholesterol and LDL (121) were slightly elevated.  Statin 
therapy should be initiated as outpatient, would recommend 
atorvastatin 40mg daily.  Echocradiogram is recommended as 
outpatient (was delayed as inpatient due to long holiday 
weekend).  As it is unclear if her the symptoms were a TIA and 
true aspirin failure, we think it is safe to continue 325mg 
daily. EEG was ordered and showed epileptiform discharges, with 
normal waking background.

She will follow up in Stroke Clinic and with PCP.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
TIA
UTI 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for a concern of stroke. Your brain imaging 
shows that you did NOT have a stroke. You were found to have a 
UTI, for which we recommend an antibiotic for a 3 day course 
(and you completed this). You also had an EEG to evaluate for 
seizure activity and this showed no seizure.  We cannot say 
definitively that you did not have a TIA (transient ischemic 
attack), so we evaluated you for stroke risk factors.

To evaluate risk factors for stroke, we recommend that you have 
an ultrasound of your heart but this can be done after 
discharge.  Please follow up as outpatient with the order/phone 
number we have provided you.

Please continue to take medications as prescribed.  We think it 
is safe for you to remain on asprin 325mg at your prior dose 

Please follow up with your primary care provider ___ ___ weeks.  
We will ask you to call the Stroke Clinic at the number listed 
below to arrange a follow-up after you are discharged.  This can 
be arranged non-urgently.

Sincerely, 

Your ___ Neurology Team 
 
Followup Instructions:
___